US07011838B2
First, 4.46 g of (3,4-dichlorobenzylidene)malononitrile was dissolved in 20 ml of tetrahydrofuran, and while stirring at room temperature, a suspension of 0.19 g of sodium borohydride in 5 ml of ethanol was added dropwise, followed by stirring at room temperature for 30 minutes. Then, 10% hydrochloride acid was added and the mixture was extracted with diethyl ether. The organic layer was successively washed with 10% hydrochloric acid, a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 3.15 g of (3,4-dichlorobenzyl)malononitrile (the intermediate (12)).

reactant | (3,4-dichlorobenzylidene)malononitrile | 4.46 g | ClC=1C=C(C=C(C#N)C#N)C=CC1Cl | C10H4Cl2N2
reactant | sodium borohydride | 0.19 g | [BH4-].[Na+]
reactant | hydrochloride | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (3,4-dichlorobenzyl)malononitrile | 3.15 g, Yield: 70% | ClC=1C=C(CC(C#N)C#N)C=CC1Cl | C10H6Cl2N2
